### PR TITLE
[Merged by Bors] - feat: explicit volume computations in NumberTheory.NumberField.CanonicalEmbedding

### PR DESCRIPTION
**Pull request by xroblot**
We compute the values of the volumes used in `CanonicalEmbedding`. In particular, we prove that
```lean
volume (fundamentalDomain (latticeBasis K)) =
       (2 : ℝ≥0∞)⁻¹ ^ (NrComplexPlaces K) * NNReal.sqrt ‖discr K‖₊
```

This will be useful later on to prove Hermite and Hermite-Minkowski theorems.

---

- [x] depends on: #5650 
- [x] depends on: #6904 
- [x] depends on: #6907  

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Discriminant.lean [hunk 1]
```diff
@@ -41,6 +43,50 @@ theorem discr_eq_discr {ι : Type*} [Fintype ι] [DecidableEq ι] (b : Basis ι
   let b₀ := Basis.reindex (RingOfIntegers.basis K) (Basis.indexEquiv (RingOfIntegers.basis K) b)
   rw [Algebra.discr_eq_discr (𝓞 K) b b₀, Basis.coe_reindex, Algebra.discr_reindex]
 
+open MeasureTheory MeasureTheory.Measure Zspan NumberField.mixedEmbedding
+  NumberField.InfinitePlace ENNReal NNReal
+
+theorem _root_.NumberField.mixedEmbedding.volume_fundamentalDomain_latticeBasis :
+    volume (fundamentalDomain (latticeBasis K)) =
+      (2 : ℝ≥0)⁻¹ ^ Fintype.card { w : InfinitePlace K // IsComplex w } *
+        Real.toNNReal (Real.sqrt |discr K|) := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Discriminant.lean:52]: Does `NNReal.sqrt` exist? If so, you can use `|discr K|\_+` (subscript +) to take the norm as nnreal, and then you don't need the `Real.toNNReal` later on.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean [hunk 2]
```diff
@@ -248,6 +250,148 @@ theorem disjoint_span_commMap_ker [NumberField K] :
...
+      rw [matrix_to_stdBasis, det_fromBlocks_zero₂₁, det_diagonal, Finset.prod_const_one, one_mul,
+          det_reindex_self, det_blockDiagonal]
+  _ = ∏ k : { w : InfinitePlace K // IsComplex w }, (2⁻¹ * Complex.I) := by
+      refine Finset.prod_congr (Eq.refl _) (fun _ _ => ?_)
+      field_simp; ring
+  _ = (2⁻¹ * Complex.I) ^ Fintype.card {w : InfinitePlace K // IsComplex w} := by
+      rw [Finset.prod_const, Fintype.card]
+
+/-- Let `x : (K →+* ℂ) → ℂ` such that `x_φ = conj x_(conj φ)` for all `φ : K →+* ℂ`, then the
+representation of `comMap K x` on `stdBasis` is given (up to reindexing) by the product of
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:357]:
```suggestion
representation of `commMap K x` on `stdBasis` is given (up to reindexing) by the product of
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean [hunk 3]
```diff
@@ -248,6 +250,148 @@ theorem disjoint_span_commMap_ker [NumberField K] :
...
+@[simp]
+theorem indexEquiv_apply_ofIsComplex_snd (w : {w : InfinitePlace K // IsComplex w}) :
+    (indexEquiv K) (Sum.inr ⟨w, 1⟩) = ComplexEmbedding.conjugate w.val.embedding := rfl
+
+variable (K)
+
+/-- The matrix that gives the representation on `stdBasis` of the image by `commMap` of an
+element `x` of `(K →+* ℂ) → ℂ` fixed by the map `x_φ ↦ conj x_(conjugate φ)`,
+see `stdBasis_repr_eq_matrix_to_stdBasis_mul`. -/
+def matrix_to_stdBasis : Matrix (index K) (index K) ℂ :=
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:340]: Preferably this name would not have `_` in it. What do you think of `commMapMatrix`? Or `matrixToStdBasis`?

File: Mathlib/NumberTheory/NumberField/Discriminant.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Discriminant.lean]: I changed the statement and the proof. It does look cleaner that way.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean]: I like the name `matrixToStdBasis` better.

File: Mathlib/NumberTheory/NumberField/Discriminant.lean [hunk 4]
```diff
@@ -41,6 +43,43 @@ theorem discr_eq_discr {ι : Type*} [Fintype ι] [DecidableEq ι] (b : Basis ι
   let b₀ := Basis.reindex (RingOfIntegers.basis K) (Basis.indexEquiv (RingOfIntegers.basis K) b)
   rw [Algebra.discr_eq_discr (𝓞 K) b b₀, Basis.coe_reindex, Algebra.discr_reindex]
 
+open MeasureTheory MeasureTheory.Measure Zspan NumberField.mixedEmbedding
+  NumberField.InfinitePlace ENNReal NNReal Complex
+
+theorem _root_.NumberField.mixedEmbedding.volume_fundamentalDomain_latticeBasis :
+    volume (fundamentalDomain (latticeBasis K)) =
+      (2 : ℝ≥0∞)⁻¹ ^ Fintype.card { w : InfinitePlace K // IsComplex w } * sqrt ‖discr K‖₊ := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Discriminant.lean:51]: Should `Fintype.card { w : InfinitePlace K // IsComplex w }` get a name? It would improve readability of this statement. Maybe
```
abbrev NrComplexPlaces := Fintype.card { w : InfinitePlace K // IsComplex w }
```
or something like that?

**Review by jcommelin — APPROVED** [review]
One more comment...
But the PR is now looking good to me.

I'm happy with merging it as is, if you would rather take care of my comment at a different moment. Or if you think it's not a good idea.

bors d+

File: Mathlib/NumberTheory/NumberField/Discriminant.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Discriminant.lean]: That's actually a very good idea since these numbers show up at many places and will show up even more in forthcoming PRs. I was almost tempted to call them r₁ and r₂ but I guess your suggestion `NrRealPlaces` and `NrComplexPlaces` is more explicit.
